US07511035B2
b) 4-Bromo-6-methoxy-quinoline-3-carboxylic acid ethyl ester
PBr3 (64.5 g, 22.5 mL, 0.239 mole) was added dropwise to a stirred, ice cold suspension of 4-hydroxy-6-methoxy-quinoline-3-carboxylic acid ethyl ester (59 g, 0.239 mole) in DMF (750 mL); the temperature rose to 15-20° C. for 30 min and then dropped to ca. 5° C. (the starting material dissolved fairly quickly and a new solid precipitated out). After 3 hr the solid was collected, washed sequentially with cold DMF, hexane, and water, then was dried at 40° C. in vacuo overnight to give the title compound (41 g, 78%): LC/MS (ES) m/e 310/312 (M+H)+.

reactant | PBr3 | 0.239 mole, 22.5 mL, 64.5 g | P(Br)(Br)Br | Br3P
reactant | 4-hydroxy-6-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.239 mole, 59 g | C(C)OC(=O)C=1C=NC2=CC=C(C=C2C1O)OC | C13H13NO4
solvent | DMF | 750 mL | CN(C)C=O | C3H7NO
product | 4-Bromo-6-methoxy-quinoline-3-carboxylic acid ethyl ester | 41 g, 78% | C(C)OC(=O)C=1C=NC2=CC=C(C=C2C1Br)OC | C13H12BrNO3
